US09399646B2
Step 1: 5-Methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine
Sodium cyanoborohydride (10 g, 160 mmol) was slowly added to a mixture of 4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride (7.0 g, 40.0 mmol) and formaldehyde (35% in water, 10 mL) in dichloromethane (100 mL) at room temperature. The resulting mixture was stirred at room temperature for 16 h. Work-up: the reaction mixture was partitioned between ethyl acetate (300 mL) and water (200 mL). The organic layer was separated, washed with brine (100 mL), dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (EtOAc/petroleum ether=1:5˜1:1) to afford the title compound as a white solids (2.0 g, 33%). 1H NMR (DMSO-d6, 400 MHz): δ 7.26 (d, 1H), 6.77 (d, 1H), 3.37 (s, 2H), 2.80-2.77 (m, 2H), 2.64-2.60 (m, 2H), 2.34 (s, 3H).

reactant | Sodium cyanoborohydride | 160 mmol, 10 g | C(#N)[BH3-].[Na+]
reactant | 4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride | 40.0 mmol, 7.0 g | Cl.S1C=CC=2CNCCC21
reactant | formaldehyde | 10 mL | C=O | CH2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-Methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 2.0 g, 33% | CN1CC2=C(CC1)SC=C2 | C8H11NS
